* Resistor for use in montecarlo simulations J meech 0ct 2004
* Binary min max model thanks to Helmut Sennewald
* Minimum Value
.subckt R_min_0 A B
.param TOLC=TOL/50
.param ran=1+TOLC*-.5
R1 A B {R*ran}
.ends R_min

* Nominal Value
.subckt R_nom_1 A B
R1 A B {R}
.ends R_nom

* Maximum Value
.subckt R_max_2 A B
.param TOLC=TOL/50
.param ran=1+TOLC*.5
R1 A B {R*ran}
.ends R_max

* Uniform distribution
.subckt R_uniform_3 A B
.param TOLC=TOL/50
.param ran=(1+TOLC*(rand(seed*100000+run)-.5))
R1 A B {R*ran}
.ends R_uniform

* Binary min/max distribution
* Requires "run" = (0)1...
* run==0 uses nominal value
* Requires "seed" = 1 ... N  ->  Bit-n 0...N-1
.subckt R_minmax_bin_4 A B
.param EPS=1e-6
.param TOLC=TOL/50
.param w=2**(seed-1)
* Test if Bit-n is 1   n=0..N-1
.param RN=if(((run-1)-(2*w)*int((run-1)/(2*w)+{EPS}))>(w-0.5),1,0)
.param ran={if((run==0),1,1-TOLC/2+TOLC*RN)} 
R1 A B {R*ran} 
.ends R_minmax_bin_4


* Gausian distribution with average of 5
.subckt R_Gausian_5 A B
.param TOLC=TOL/50
.param A1=(1+TOLC*(rand(seed*100000+run)-.5))
.param A2=(1+TOLC*(rand(seed*100000+10000+run)-.5))
.param A3=(1+TOLC*(rand(seed*100000+20000+run)-.5))
.param A4=(1+TOLC*(rand(seed*100000+30000+run)-.5))
.param A5=(1+TOLC*(rand(seed*100000+40000+run)-.5))
.param ran={(a1+a2+a2+a4+a5)/5}
R1 A B {R*ran}
.ends R_Gausian_5


* Minimum Value
.subckt 0 A B
.param TOLC=TOL/50
.param ran=1+TOLC*-.5
R1 A B {R*ran}
.ends 0

* Nominal Value
.subckt 1 A B
R1 A B {R}
.ends 1

* Maximum Value
.subckt 2 A B
.param TOLC=TOL/50
.param ran=1+TOLC*.5
R1 A B {R*ran}
.ends 2

* Uniform distribution
.subckt 3 A B
.param TOLC=TOL/50
.param ran=(1+TOLC*(rand(seed*100000+run)-.5))
R1 A B {R*ran}
.ends 3

* Binary min/max distribution
* Requires "run" = (0)1...
* run==0 uses nominal value
* Requires "seed" = 1 ... N  ->  Bit-n 0...N-1
.subckt 4 A B
.param EPS=1e-6
.param TOLC=TOL/50
.param w=2**(seed-1)
* Test if Bit-n is 1   n=0..N-1
.param RN=if(((run-1)-(2*w)*int((run-1)/(2*w)+{EPS}))>(w-0.5),1,0)
.param ran={if((run==0),1,1-TOLC/2+TOLC*RN)} 
R1 A B {R*ran} 
.ends 4

* Gausian distribution with average of 5
.subckt 5 A B
.param TOLC=TOL/50
.param A1=(1+TOLC*(rand(seed*100000+run)-.5))
.param A2=(1+TOLC*(rand(seed*100000+10000+run)-.5))
.param A3=(1+TOLC*(rand(seed*100000+20000+run)-.5))
.param A4=(1+TOLC*(rand(seed*100000+30000+run)-.5))
.param A5=(1+TOLC*(rand(seed*100000+40000+run)-.5))
.param ran={(a1+a2+a2+a4+a5)/5}
R1 A B {R*ran}
.ends 5






