* Voltage source for use in montecarlo simulations J meech 0ct 2004
* Gausian distribution with average of 10

* Minimum Value
.subckt V_min_0 A B
.param TOLC=TOL/50
.param ran=1+TOLC*-.5
V1 A B {V*ran} AC={AC} Rser={Rser} Cpar={Cpar}
.ends V_min

* Nominal Value
.subckt V_nom_1 A B
V1 A B {V} AC={AC} Rser={Rser} Cpar={Cpar}
.ends V_nom

* Maximum Value
.subckt V_max_2 A B
.param TOLC=TOL/50
.param ran=1+TOLC*.5
V1 A B {V*ran} AC={AC} Rser={Rser} Cpar={Cpar}
.ends V_max


* Uniform distribution
.subckt V_uniform_3 A B
.param TOLC=TOL/50
.param ran=(1+TOLC*(rand(seed*100000+run)-.5))
V1 A B {V*ran} AC={AC} Rser={Rser} Cpar={Cpar}
.ends V_uniform

* Binary min/max distribution
* Requires "run" = (0)1...
* run==0 uses nominal value
* Requires "seed" = 1 ... N  ->  Bit-n 0...N-1
.subckt V_minmax_bin_4 A B
.param EPS=1e-6
.param TOLC=TOL/50
.param w=2**(seed-1)
* Test if Bit-n is 1   n=0..N-1
.param RN=if(((run-1)-(2*w)*int((run-1)/(2*w)+{EPS}))>(w-0.5),1,0)
.param ran={if((run==0),1,1-TOLC/2+TOLC*RN)} 
V1 A B {V*ran} AC={AC} Rser={Rser} Cpar={Cpar} 
.ends V_minmax_bin_4

* Gausian distribution with average of 5
.subckt V_Gausian_5 A B
.param TOLC=TOL/50
.param A1=(1+TOLC*(rand(seed*100000+run)-.5))
.param A2=(1+TOLC*(rand(seed*100000+10000+run)-.5))
.param A3=(1+TOLC*(rand(seed*100000+20000+run)-.5))
.param A4=(1+TOLC*(rand(seed*100000+30000+run)-.5))
.param A5=(1+TOLC*(rand(seed*100000+40000+run)-.5))
.param ran={(a1+a2+a2+a4+a5)/5}
V1 A B {V*ran} AC={AC} Rser={Rser} Cpar={Cpar}
.ends V_Gausian_5


* Minimum Value
.subckt 60 A B
.param TOLC=TOL/50
.param ran=1+TOLC*-.5
V1 A B {V*ran} AC={AC} Rser={Rser} Cpar={Cpar}
.ends 60

* Nominal Value
.subckt 61 A B
V1 A B {V}
.ends 61

* Maximum Value
.subckt 62 A B
.param TOLC=TOL/50
.param ran=1+TOLC*.5
V1 A B {V*ran} AC={AC} Rser={Rser} Cpar={Cpar}
.ends 62

* Uniform distribution
.subckt 63 A B
.param TOLC=TOL/50
.param ran=(1+TOLC*(rand(seed*100000+run)-.5))
V1 A B {V*ran}
.ends 63


* Binary min/max distribution
* Requires "run" = (0)1...
* run==0 uses nominal value
* Requires "seed" = 1 ... N  ->  Bit-n 0...N-1
.subckt 64 A B
.param EPS=1e-6
.param TOLC=TOL/50
.param w=2**(seed-1)
* Test if Bit-n is 1   n=0..N-1
.param RN=if(((run-1)-(2*w)*int((run-1)/(2*w)+{EPS}))>(w-0.5),1,0)
.param ran={if((run==0),1,1-TOLC/2+TOLC*RN)} 
V1 A B {V*ran} AC={AC} Rser={Rser} Cpar={Cpar} 
.ends 64

* Gausian distribution with average of 5
.subckt 65 A B
.param TOLC=TOL/50
.param A1=(1+TOLC*(rand(seed*100000+run)-.5))
.param A2=(1+TOLC*(rand(seed*100000+10000+run)-.5))
.param A3=(1+TOLC*(rand(seed*100000+20000+run)-.5))
.param A4=(1+TOLC*(rand(seed*100000+30000+run)-.5))
.param A5=(1+TOLC*(rand(seed*100000+40000+run)-.5))
.param ran={(a1+a2+a2+a4+a5)/5}
V1 A B {V*ran} AC={AC} Rser={Rser} Cpar={Cpar}
.ends 65

